US04546101
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-[2-(3-pyridyl)vinyl]-3-cephem-4-carboxylic acid (syn isomer) (cis-trans mixture) (0.8 g) in methanol (6 ml), tetrahydrofuran (3 ml) and conc.hydrochloric acid (0.5 g) were stirred for 3 hours at ambient temperature. The resulting solution was added to a mixture of ethyl acetate and water and adjusted to pH 7.5 with 20% aqueous potassium carbonate. The separated aqueous layer was adjusted to pH 3.5 with 10% hydrochloric acid under ice-cooling. The precipitate was filtered off, washed with ice-water and dried over phosphorus pentoxide in vacuo to give 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[2-(3-pyridyl)vinyl]-3-cephem-4-carboxylic acid (syn isomer) (cis-trans mixture) (0.3 g).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-[2-(3-pyridyl)vinyl]-3-cephem-4-carboxylic acid | 0.8 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC=2C=NC=CC2)C(=O)O)C1=O)=NOC | C21H18N6O6S2
reactant | hydrochloric acid | 0.5 g | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 6 ml | CO | CH4O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[2-(3-pyridyl)vinyl]-3-cephem-4-carboxylic acid | 0.3 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC=2C=NC=CC2)C(=O)O)C1=O)=NOC | C20H18N6O5S2
